US07030262B2
(2R)-2-[(tert-butoxycarbonyl)amino]-4-(tert-butylsulfanyl)butanoic acid
A solution of D-homocystine (3.0 g, 11 mmol) in liquid ammonia (100 mL) was treated with sodium (1.3 g, 56 mmol). The ammonia was allowed to evaporate under a stream of nitrogen, and the residue was dissolved in 1M HCl (10 mL). The pH was adjusted to 0 with concentrated HCl, treated with tert-butanol (5 mL, 53 mmol), heated to reflux for 16 hours, and concentrated. The concentrate was dissolved in 1:1 2-propanol/water (80 mL), treated with di-tert-butyl dicarbonate (20.2 g, 92.7 mmol), stirred at room temperature for 16 hours, and concentrated. The concentrate was dissolved in water adjusted to pH 10 with 50% NaOH. The solution was washed twice with diethyl ether, adjusted to pH 2 with HCl, and extracted twice with ethyl acetate. The combined extracts were dried (MgSO4), filtered, then concentrated to provide the desired product. MS (ESI) m/e 292 (M+H)+.

reactant | D-homocystine | 11 mmol, 3.0 g | C(C[C@H](C(=O)O)N)SSCC[C@H](C(=O)O)N | C8H16N2O4S2
reactant | sodium | 56 mmol, 1.3 g | [Na] | Na
reactant | tert-butanol | 53 mmol, 5 mL | C(C)(C)(C)O | C4H10O
reactant | di-tert-butyl dicarbonate | 92.7 mmol, 20.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ammonia | 100 mL | N | H3N
product | (2R)-2-[(tert-butoxycarbonyl)amino]-4-(tert-butylsulfanyl)butanoic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CCSC(C)(C)C | C13H25NO4S
